US04618697
A mixture of 2-(1-bromoethyl)-2-(6-methoxy-2-naphthyl)-1,3-dioxane (3.79 g; 10 mmol), potassium acetate (1.2 g; 12 mmol) and formamide (50 ml) is heated at 170° C. under stirring for 2.5 h. The reaction mixture is worked up as described in example 1a to provide 2-(6-methoxy-2-naphthyl)-propionic acid (yield 53%).

reactant | 2-(1-bromoethyl)-2-(6-methoxy-2-naphthyl)-1,3-dioxane | 10 mmol, 3.79 g | BrC(C)C1(OCCCO1)C1=CC2=CC=C(C=C2C=C1)OC | C17H19BrO3
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
solvent | formamide | 50 ml | C(=O)N | CH3NO
product | 2-(6-methoxy-2-naphthyl)-propionic acid | yield 53% | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
